US07429594B2
2-[3-(4-Methoxy-phenyl)-2-oxo-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one
To a stirring solution of 2-[2-hydroxy-3-(4-methoxy-phenyl)-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one (765 mg, 1.55 mmol) in 20 mL dichloromethane was added Dess-Martin Periodinane (660 mg, 1.55 mmol). The dark red solution was stirred for 18 h at room temperature. The reaction mixture was diluted with 80 mL dichloromethane and washed twice with 15 mL 5% sodium bicarbonate, and dried over magnesium sulfate. The product was purified on 40 g silica eluting with 0 to 4% methanol/dichloromethane to provide the product as a yellow foam. The product was further purified on reverse phase high performance chromatography using an water/acetonitrile (0.1% TFA) gradient. The final sample was lyophilized from 50% acetonitrile/water to give a yellow powder. M+1=491.2.

reactant | 2-[2-hydroxy-3-(4-methoxy-phenyl)-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | 1.55 mmol, 765 mg | OC(CNC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1)CC1=CC=C(C=C1)OC | C30H28N4O3
reactant | Dess-Martin Periodinane | 1.55 mmol, 660 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 2-[3-(4-Methoxy-phenyl)-2-oxo-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | COC1=CC=C(C=C1)CC(CNC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1)=O | C30H26N4O3
